US06562989B2
N-n-hexyl-2-methoxyaniline (Table 7, Entry 11)
According to the general procedure B, 2-Chloroanisole (72 mg, 0.51 mmol) reacted with n-hexylamine (80 μl, 0.60 mmol) using 1 mol % of Pd(OAc)2, 2 mol % of Ph5FcP(t-Bu)2, and sodium tert-butoxide (58 mg, 0.60 mmol) in toluene at 100° C. to give the title compound (102 mg, 97%) as a colorless oil: 1H-NMR (400 MHz, CDCl3): δ 6.93 (t, 1H, J=8.0 Hz, aryl coupling J=0.9 Hz), 6.82 (d, 1H, J=8.0 Hz), 6.66-6.73 (m, 2H), 4.30 (bs, 1H), 3.89 (s, 3H), 3.17 (t, 2H, J=7.2 Hz), 1.71 (m, 2H), 1.51-1.34 (m, 6H), 0.97 (t, 3H, J=6.4 and 6.8 Hz). 13C{1H}-NMR (100 MHz, CDCl3): δ 146.65, 138.39, 121.23, 116.03, 109.71, 109.24, 55.29, 43.63, 31.63, 29.43, 26.88, 22.58, 14.00. GC/MS(EI): m/z 207 (M+). Anal. Calcd for C13H21NO: C, 75.23; H, 10.21; N, 6.76. Found: C,75.41; H, 10.25; N, 6.69.

reactant | 2-Chloroanisole | 0.51 mmol, 72 mg | ClC1=C(C=CC=C1)OC | C7H7ClO
reactant | n-hexylamine | 0.60 mmol, 80 μl | C(CCCCC)N | C6H15N
reactant | sodium tert-butoxide | 0.60 mmol, 58 mg | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N-n-hexyl-2-methoxyaniline | 102 mg, 97% | C(CCCCC)NC1=C(C=CC=C1)OC | C13H21NO
